US04232166
4-Hydroxy-5-methylene-1-octyne
To a stirred mixture of 12.16 g. of magnesium in 120 ml. of ether containing 200 mg. of mercuric chloride is added 2 ml. of propargyl bromide and 0.5 ml. of 1,2-dibromoethane. This mixture is stirred under argon until the reaction begins. To this is added with stirring a solution of 41.57 g. of 2-methylene valeraldehyde and 64.95 g. of propargyl bromide in 90 ml. of ether, dropwise, at a rate to maintain reflux. After addition is complete the mixture is refluxed 15 minutes, stirred at room temperature one hour, cooled to 0° C. and saturated ammonium chloride solution is added dropwise until reflux stops. The mixture is filtered through Celite, dried over magnesium sulfate and the ether is removed giving the product as a light orange oil.

reactant | magnesium | [Mg] | Mg
reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 2-methylene valeraldehyde | C=C(C=O)CCC | C6H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
solvent | ether | 200 mg | CCOCC | C4H10O
product | 4-Hydroxy-5-methylene-1-octyne | OC(CC#C)C(CCC)=C | C9H14O
